US06403055B1
F) N-(2-Bromoethyl)-N-[2-(1,1-dimethylethoxy)-2oxoethyl]-L-tryptophan 1,1-dimethylethyl ester
To a solution of N-[2-(1,1-dimethylethoxy)-2-oxoethyl]-N-(2-hydroxyethyl)-L-tryptophan 1,1-dimethyl-ethyl ester (4.64 g; 11.09 mmol) in CH2Cl2 (44 mL; freshly distilled over CaH2) under an inert atmosphere, solid Ph3P (2.9 g; 11.09 mmol) was added. The solution was cooled to 0° C. and then solid NBS (1.97 g; 11.09 mmol) was portionwise added (45 min), waiting for complete dissolution after each addition. The reaction was monitored by TLC:

reactant | N-[2-(1,1-dimethylethoxy)-2-oxoethyl]-N-(2-hydroxyethyl)-L-tryptophan 1,1-dimethyl-ethyl ester | 11.09 mmol, 4.64 g | CC(C)(C)OC([C@@H](N(CCO)CC(=O)OC(C)(C)C)CC1=CNC2=CC=CC=C12)=O | C23H34N2O5
reactant | Ph3P | 11.09 mmol, 2.9 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | NBS | 11.09 mmol, 1.97 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-(2-Bromoethyl)-N-[2-(1,1-dimethylethoxy)-2oxoethyl]-L-tryptophan 1,1-dimethylethyl ester | CC(C)(C)OC([C@@H](N(CC(=O)OC(C)(C)C)CCBr)CC1=CNC2=CC=CC=C12)=O | C23H33BrN2O4
